US08114886B2
2-Bromo-5-[[(4-fluorophenyl)thio](2,3,6-trifluorophenyl)methyl]-4-methylpyridine
To a solution of 2-bromo-5-[chloro(2,3,6-trifluorophenyl)methyl]-4-methylpyridine (4.65 g, 13.3 mmol) in N,N-dimethylformamide (70 ml), 4-fluorobenzenethiol (1.41 ml, 13.3 mmol) and then potassium carbonate (2.02 g, 14.6 mmol) were added in an argon atmosphere at 0° C., and the resulting mixture was stirred for 4 hours at room temperature. Ethyl acetate and water were added to the reaction mixture at 0° C., the organic layer was separated, and then the organic layer was washed with saturated brine. The organic layer was dried over anhydrous sodium sulfate and filtered, then the filtrate was concentrated under reduced pressure, and the resulting residue was subjected to flash silica gel chromatography. The fraction obtained from an elution with hexane:ethyl acetate=19:1 was concentrated under reduced pressure, and the resulting residue was washed with hexane, and then was collected by filtration, to obtain the title compound (5.17 g, 11.7 mmol, 88%) as a white solid.

reactant | 2-bromo-5-[chloro(2,3,6-trifluorophenyl)methyl]-4-methylpyridine | 13.3 mmol, 4.65 g | BrC1=NC=C(C(=C1)C)C(C1=C(C(=CC=C1F)F)F)Cl | C13H8BrClF3N
reactant | 4-fluorobenzenethiol | 13.3 mmol, 1.41 ml | FC1=CC=C(C=C1)S | C6H5FS
reactant | potassium carbonate | 14.6 mmol, 2.02 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-Bromo-5-[[(4-fluorophenyl)thio](2,3,6-trifluorophenyl)methyl]-4-methylpyridine | 11.7 mmol, 5.17 g, 88% | BrC1=NC=C(C(=C1)C)C(C1=C(C(=CC=C1F)F)F)SC1=CC=C(C=C1)F | C19H12BrF4NS
